* A test circuit to demonstrate SPICE syntax
V2 N003 N004 4
R1 0 N004 4
R2 0 N002 8
R3 N001 N002 1
R4 N002 N003 2
V1 N001 0 1
.tran 0 1 0 1m
.backanno
.end